US09238644B2
(b) 2-(2-(2-(2-Chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)propanamide (A49)
A solution of 2-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)propanamide A48 (2.08 g, 6.95 mmol) in DMF (110 mL) and MeOH (10 mL) was stirred with PtO2 (0.395 g, 1.74 mmol) under an atmosphere of H2 for 16 hours at room temperature. An extra portion of PtO2 (0.189 g, 0.832 mmol) was added and stirring was continued under H2 for 72 hours at room temperature. The mixture was diluted with EtOAc (200 mL) and filtered through Celite. The volatiles were removed in vacuo and the residue was purified by column chromatography (Biotage Isolera, 120 g SiO2 cartridge, 10-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A49 as a white solid (1.51 g, 72%). LCMS-D: rt 3.15 min; m/z 304 [M+H]+.

reactant | 2-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)propanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)C)C | C16H14ClN3O
reactant | MeOH | 10 mL | CO | CH4O
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 1.74 mmol, 0.395 g | O=[Pt]=O
catalyst | PtO2 | 0.832 mmol, 0.189 g | O=[Pt]=O
product | 2-(2-(2-(2-Chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)propanamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)C)C | C16H18ClN3O
